US08466176B2
To a stirred suspension of N-hydroxy-1-[3-(methylsulfanyl)phenyl]-1-(1-methyl-1H-tetrazol-5-yl)methanimine (2.00 g, 6.90 mmol), in dry acetonitrile (115 mL) were added 4-(chloromethyl)-1,3-thiazol-2-amine (1.13 g, 7.59 mmol), cesium carbonate (4.72 g, 14.5 mmol) and potassium iodide (0.57 g, 3.45 mmol). The reaction mixture was stirred at room temperature for 26 h, then insolubles were removed by filtration and washed with dichloromethane (3×40 mL) and ethyl acetate (3×40 mL). The filtrates were combined and concentrated in vacuo. The residue was dissolved in dichloromethane (100 mL), washed with water (50 mL), the aqueous layer was extracted with dichloromethane (50 mL) and the combined organic layers were dried over MgSO4 and concentrated in vacuo to afford 4-{[({[3-(methylsulfanyl)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}-1,3-thiazol-2-amine [1.10 g, yield 42%; HPLC/MS: m/z=362 (M+H); logP(HCOOH)=1.76].

reactant | N-hydroxy-1-[3-(methylsulfanyl)phenyl]-1-(1-methyl-1H-tetrazol-5-yl)methanimine | 6.90 mmol, 2.00 g | ON=C(C1=NN=NN1C)C1=CC(=CC=C1)SC | C10H11N5OS
reactant | 4-(chloromethyl)-1,3-thiazol-2-amine | 7.59 mmol, 1.13 g | ClCC=1N=C(SC1)N | C4H5ClN2S
reactant | cesium carbonate | 14.5 mmol, 4.72 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 3.45 mmol, 0.57 g | [I-].[K+]
solvent | acetonitrile | 115 mL | C(C)#N | C2H3N
product | 4-{[({[3-(methylsulfanyl)phenyl](1-methyl-1H-tetrazol-5-yl)methylene}amino)oxy]methyl}-1,3-thiazol-2-amine | 1.10 g, yield 42% | CSC=1C=C(C=CC1)C(C1=NN=NN1C)=NOCC=1N=C(SC1)N | C14H15N7OS2
